US05124457
To bromobenzene (0.6 g) and magnesium turnings (0.2 g) in 30 ml dry tetrahydrofuran under nitrogen was added a small crystal of iodine and 10 drops of 1,2-dibromoethane. After small bubbles began to form, the reaction was stirred and heated to reflux for 4 hours. After cooling to room temperature, 1-benzyl-4-(1-cyanocyclohexyl)piperazine (1 g) was added. After 23 hours, the reaction was filtered, 20 ml saturated aqueous ammonium chloride was added and the mixture was extracted with diethyl ether. The ether was dried and removed in vacuo. The residue was chromatographed on silica gel eluted with chloroform to yield pure 1-benzyl-4-(1-phenylcyclohexyl)piperazine.

reactant | bromobenzene | 0.6 g | BrC1=CC=CC=C1 | C6H5Br
reactant | magnesium | 0.2 g | [Mg] | Mg
reactant | iodine | II | I2
reactant | 1-benzyl-4-(1-cyanocyclohexyl)piperazine | 1 g | C(C1=CC=CC=C1)N1CCN(CC1)C1(CCCCC1)C#N | C18H25N3
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
catalyst | 1,2-dibromoethane | 10 drops | BrCCBr | C2H4Br2
product | 1-benzyl-4-(1-phenylcyclohexyl)piperazine | C(C1=CC=CC=C1)N1CCN(CC1)C1(CCCCC1)C1=CC=CC=C1 | C23H30N2
